US06462036B1
In a similar manner to Example 1, indan-1-one hydrazone (3.55 g) was dissolved in tetrahydrofuran (80 ml) at 0° C. under nitrogen with stirring. n-Butyllithium (28.8 ml of a 2.5M solution in hexane) was added to the solution and the mixture was stirred at 0° C. for 0.5 h. Ethyl 3-methoxybenzoate (2.16 g) was added, followed by 3M hydrochloric acid (80 ml) and the mixture was worked up as described in Example 1 to give 3-(3-methoxyphenyl)-1,4-dihydroindeno[1,2-c]pyrazole, m.p. 172-174° C.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | Ethyl 3-methoxybenzoate | 2.16 g | COC=1C=C(C(=O)OCC)C=CC1 | C10H12O3
reactant | hydrochloric acid | 3M, 80 ml | Cl | ClH
reactant | indan-1-one hydrazone | 3.55 g | C1(CCC2=CC=CC=C12)=NN | C9H10N2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3-(3-methoxyphenyl)-1,4-dihydroindeno[1,2-c]pyrazole | COC=1C=C(C=CC1)C=1C2=C(NN1)C1=CC=CC=C1C2 | C17H14N2O
